US08470859B2
5-chloro-1-(2-fluoro-5-methylbenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide
According to the method of Example 172, 2-amino-5-chloronicotinamide was reacted with 2-(bromomethyl)-1-fluoro-4-methylbenzene to give the title compound.

reactant | 2-amino-5-chloronicotinamide | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
reactant | 2-(bromomethyl)-1-fluoro-4-methylbenzene | BrCC1=C(C=CC(=C1)C)F | C8H8BrF
product | 5-chloro-1-(2-fluoro-5-methylbenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide | Br.ClC=1C=C(C(N(C1)CC1=C(C=CC(=C1)C)F)=N)C(=O)N | InChI=1S/C14H13ClFN3O.BrH/c1-8-2-3-12(16)9(4-8)6-19-7-10(15)5-11(13(19)17)14(18)20;/h2-5,7,17H,6H2,1H3,(H2,18,20);1H
